US07456293B2
Step A: Preparation of ethyl 3-(4-{2-[5-phenyl-2-(trifluoromethyl)-1H-benzimidazol-1-yl]ethoxy}phenyl)-2-ethoxypropanoate
Ethyl-3-(4-{2-[5-bromo-2-(trifluoromethyl)-1H-benzimidazol-1-yl]ethoxy}phenyl)-2-ethoxypropanoate (529 mg, 1 mmol), PPh3 (3.93 mg, 0.015 mmol), Pd(OAc)2 (1.3 mg, 0.006 mmol) and PhB(OH)2 (142 mg, 1.2 mmol) were mixed in n-propanol (5 ml). Na2CO3 (212 mg, 2 mmol) was dissolved in water (2.5 ml) and added to the mixture. The reaction mixture was refluxed under N2 atmosphere for 4 hrs and cooled. The solvents were evaporated and the residue was dissolved in ethyl acetate and passed through a small pad of silica. The silica was washed with additional ethyl acetate. Solvent was evaporated to give the product which was purified by HPLC (243 mg, 46%).

reactant | Ethyl-3-(4-{2-[5-bromo-2-(trifluoromethyl)-1H-benzimidazol-1-yl]ethoxy}phenyl)-2-ethoxypropanoate | 1 mmol, 529 mg | C(C)OC(C(CC1=CC=C(C=C1)OCCN1C(=NC2=C1C=CC(=C2)Br)C(F)(F)F)OCC)=O | C23H24BrF3N2O4
reactant | PPh3 | 0.015 mmol, 3.93 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | PhB(OH)2 | 1.2 mmol, 142 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 2 mmol, 212 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | n-propanol | 5 ml | C(CC)O | C3H8O
solvent | water | 2.5 ml | O | H2O
catalyst | Pd(OAc)2 | 0.006 mmol, 1.3 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | ethyl 3-(4-{2-[5-phenyl-2-(trifluoromethyl)-1H-benzimidazol-1-yl]ethoxy}phenyl)-2-ethoxypropanoate | C1(=CC=CC=C1)C1=CC2=C(N(C(=N2)C(F)(F)F)CCOC2=CC=C(C=C2)CC(C(=O)OCC)OCC)C=C1 | C29H29F3N2O4
